US04652556
Preparation of 2-Methyl-2-(3-chloropropylsulfonamido)-propionitrile
To a stirred mixture of 9.90 g (0.05 mole) 3-chloropropane sulfonyl chloride and 4.71 g (0.056 mole) 2-amino-2-methyl-propionitrile in 100 ml methylene chloride at 0° C., 5.66 g (0.056 mole) triethylamine as a 10% solution in methylene chloride was added very slowly. The reaction mixture was allowed to stir overnight in the gradually melting ice bath. The reaction mixture was washed three times with 50 ml water. The organic layer was dried over calcium sulfate and evaporated to give 9.90 g of the above-identified product as a brown oil.

reactant | 3-chloropropane sulfonyl chloride | 0.05 mole, 9.90 g | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | 2-amino-2-methyl-propionitrile | 0.056 mole, 4.71 g | NC(C#N)(C)C | C4H8N2
reactant | triethylamine | 0.056 mole, 5.66 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-Methyl-2-(3-chloropropylsulfonamido)-propionitrile | 9.90 g | CC(C#N)(C)NS(=O)(=O)CCCCl | C7H13ClN2O2S
